US04737488
N-(D-Mannopyranosyl)dodecylamine
The preparation is analogous to Example 1, starting from 18 g of mannose and 19 g of dodecylamine.

reactant | mannose | 18 g | O=C[C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | dodecylamine | 19 g | C(CCCCCCCCCCC)N | C12H27N
product | N-(D-Mannopyranosyl)dodecylamine | C1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CCCCCCCCCCCCN | C18H37NO5
